** sch_path: ./p1_top_hier.sch
**.subckt p1_top_hier PBIT_OUT PBIT_RAW CLK_OUT_DIV CLK_P CLK_N TRIM_P TRIM_N NOISE_GEN_VCC NOISE_GEN_VSS NOISE_AMP_VCC
*+ NOISE_AMP_VSS COMPARATOR_VCC_HBT VDD COMPARATOR_VSS VB1 VB2 IE
*.opin PBIT_OUT
*.opin PBIT_RAW
*.opin CLK_OUT_DIV
*.ipin CLK_P
*.ipin CLK_N
*.ipin TRIM_P
*.ipin TRIM_N
*.iopin NOISE_GEN_VCC
*.iopin NOISE_GEN_VSS
*.iopin NOISE_AMP_VCC
*.iopin NOISE_AMP_VSS
*.iopin COMPARATOR_VCC_HBT
*.iopin VDD
*.iopin COMPARATOR_VSS
*.ipin VB1
*.ipin VB2
*.iopin IE
X1 PBIT_OUT PBIT_RAW CLK_OUT_DIV CLK_P CLK_N TRIM_P TRIM_N NOISE_GEN_VCC NOISE_GEN_VSS NOISE_AMP_VCC NOISE_AMP_VSS
+ COMPARATOR_VCC_HBT VDD COMPARATOR_VSS VB1 VB2 IE p1_top
**.ends

* expanding   symbol:  p1_top.sym # of pins=17
** sym_path: ./p1_top.sym
** sch_path: ./p1_top.sch
.subckt p1_top PBIT_OUT PBIT_RAW CLK_OUT_DIV CLK_P CLK_N TRIM_P TRIM_N NOISE_GEN_VCC NOISE_GEN_VSS NOISE_AMP_VCC NOISE_AMP_VSS
+ COMPARATOR_VCC_HBT VDD COMPARATOR_VSS VB1 VB2 IE
*.opin PBIT_OUT
*.opin PBIT_RAW
*.opin CLK_OUT_DIV
*.ipin CLK_P
*.ipin CLK_N
*.ipin TRIM_P
*.ipin TRIM_N
*.iopin NOISE_GEN_VCC
*.iopin NOISE_GEN_VSS
*.iopin NOISE_AMP_VCC
*.iopin NOISE_AMP_VSS
*.iopin COMPARATOR_VCC_HBT
*.iopin VDD
*.iopin COMPARATOR_VSS
*.ipin VB1
*.ipin VB2
*.iopin IE
X1 net1 net2 NOISE_GEN_VCC NOISE_GEN_VSS VB1 VB2 IE p1_noise_gen
X2 net3 net4 net1 net2 NOISE_AMP_VCC NOISE_AMP_VSS p1_noise_amp
X3 PBIT_OUT PBIT_RAW CLK_OUT_DIV net3 net4 CLK_P CLK_N TRIM_P TRIM_N COMPARATOR_VCC_HBT VDD COMPARATOR_VSS p1_comparator
.ends


* expanding   symbol:  p1_noise_gen.sym # of pins=7
** sym_path: ./p1_noise_gen.sym
** sch_path: ./p1_noise_gen.sch
.subckt p1_noise_gen RAW_NOISE_P RAW_NOISE_N VCC VSS VB1 VB2 IE
*.opin RAW_NOISE_P
*.opin RAW_NOISE_N
*.iopin VCC
*.iopin VSS
*.ipin VB1
*.ipin VB2
*.iopin IE
XQ1 RAW_NOISE_N VB1 IE VSS npn13G2 Nx=1 mm_ok=1
XQ2 RAW_NOISE_P VB2 IE VSS npn13G2 Nx=1 mm_ok=1
XRC1 VCC RAW_NOISE_N sub! rppd w=1.0u l=3.85u m=1 b=0 mm_ok=1
XRC2 VCC RAW_NOISE_P sub! rppd w=1.0u l=3.85u m=1 b=0 mm_ok=1
XTAP1 VSS sub! ptap1 R={ 1.0 / ( 1.0 / ( 9.8e-10 / ( 2.0u * 2.0u ) ) + 1.0 / ( 9.8e-4 / ( 2.0 * ( 2.0u + 2.0u ) ) ) )} w=2.0u l=2.0u
.ends


* expanding   symbol:  p1_noise_amp.sym # of pins=6
** sym_path: ./p1_noise_amp.sym
** sch_path: ./p1_noise_amp.sch
.subckt p1_noise_amp NOISE_AMP_P NOISE_AMP_N RAW_NOISE_P RAW_NOISE_N VCC VSS
*.opin NOISE_AMP_P
*.opin NOISE_AMP_N
*.ipin RAW_NOISE_P
*.ipin RAW_NOISE_N
*.iopin VCC
*.iopin VSS
XQ1 c1_n RAW_NOISE_P e1_1 sub! npn13G2 Nx=2 mm_ok=1
XQ2 c1_p RAW_NOISE_N e1_2 sub! npn13G2 Nx=2 mm_ok=1
XRC1_1 VCC c1_n sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRC1_2 c1_p VCC sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRE1_1 e1_1 e1_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XRE1_2 e1_2 e1_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XMP1 c_p1 c_p2 VCC VCC sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XMP2 c_p2 c_p2 VCC VCC sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XQP1 c_p1 c_p1 e_p1 sub! npn13G2 Nx=1 mm_ok=1
XRDEG_P1 e_p1 VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQP2 c_p2 c_p1 e_p2 sub! npn13G2 Nx=4 mm_ok=1
XRPTAT e_p2 VSS sub! rppd w=2.0u l=1.107u m=1 b=0 mm_ok=1
XQS1 e1_common c_p1 e_s1 sub! npn13G2 Nx=9 mm_ok=1
XRDEG_S1 e_s1 VSS sub! rppd w=36.0u l=0.50u m=1 b=0 mm_ok=1
XCAC1 c1_n b2_p cap_cmim w=36.5u l=36.5u m=1 mm_ok=1
XCAC2 c1_p b2_n cap_cmim w=36.5u l=36.5u m=1 mm_ok=1
XRBDIV1 VCC vbias2 sub! rppd w=1.0u l=40.50u m=1 b=0 mm_ok=1
XRBDIV2 vbias2 VSS sub! rppd w=1.0u l=55.115u m=1 b=0 mm_ok=1
XRB2_1 vbias2 b2_p sub! rppd w=1.0u l=192.0u m=1 b=0 mm_ok=1
XRB2_2 b2_n vbias2 sub! rppd w=1.0u l=192.0u m=1 b=0 mm_ok=1
XQ4 NOISE_AMP_P b2_p e2_1 sub! npn13G2 Nx=1 mm_ok=1
XQ3 NOISE_AMP_N b2_n e2_2 sub! npn13G2 Nx=1 mm_ok=1
XRC2_2 VCC NOISE_AMP_P sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRC2_1 NOISE_AMP_N VCC sub! rppd w=1.0u l=0.7115u m=1 b=0 mm_ok=1
XRE2_1 e2_1 e2_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XRE2_2 e2_2 e2_common sub! rppd w=13.333u l=0.50u m=1 b=0 mm_ok=1
XQS2 e2_common c_p1 e_s2 sub! npn13G2 Nx=9 mm_ok=1
XRDEG_S2 e_s2 VSS sub! rppd w=36.0u l=0.50u m=1 b=0 mm_ok=1
XTAP1 VSS sub! ptap1 R={ 1.0 / ( 1.0 / ( 9.8e-10 / ( 2.0u * 2.0u ) ) + 1.0 / ( 9.8e-4 / ( 2.0 * ( 2.0u + 2.0u ) ) ) )} w=2.0u l=2.0u
.ends


* expanding   symbol:  p1_comparator.sym # of pins=12
** sym_path: ./p1_comparator.sym
** sch_path: ./p1_comparator.sch
.subckt p1_comparator PBIT_OUT PBIT_RAW CLK_OUT_DIV IN_P IN_N CLK_P CLK_N TRIM_P TRIM_N VCC_HBT VDD VSS
*.opin PBIT_OUT
*.opin PBIT_RAW
*.opin CLK_OUT_DIV
*.ipin IN_P
*.ipin IN_N
*.ipin CLK_P
*.ipin CLK_N
*.ipin TRIM_P
*.ipin TRIM_N
*.iopin VCC_HBT
*.iopin VDD
*.iopin VSS
XRC1 VCC_HBT c_n sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1
XRC2 VCC_HBT c_p sub! rppd w=1.0u l=0.838u m=1 b=0 mm_ok=1
XQ1 c_n IN_P e_track sub! npn13G2 Nx=1 mm_ok=1
XQ2 c_p IN_N e_track sub! npn13G2 Nx=1 mm_ok=1
XRBLEED_TRACK e_track e_tail sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1
XRBLEED_LATCH e_latch e_tail sub! rppd w=1.0u l=0.50u m=1 b=0 mm_ok=1
XQ3 c_n ef_p e_latch sub! npn13G2 Nx=1 mm_ok=1
XQ4 c_p ef_n e_latch sub! npn13G2 Nx=1 mm_ok=1
XQCLK_TRACK e_track CLK_P e_tail sub! npn13G2 Nx=1 mm_ok=1
XQCLK_LATCH e_latch CLK_N e_tail sub! npn13G2 Nx=1 mm_ok=1
XMP1_COMP c_p1_comp c_p2_comp VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XMP2_COMP c_p2_comp c_p2_comp VCC_HBT VCC_HBT sg13_hv_pmos w=20.0u l=1.0u ng=1 m=1 mm_ok=1
XQP1_COMP c_p1_comp c_p1_comp e_p1_comp sub! npn13G2 Nx=1 mm_ok=1
XRDEG_P1_COMP e_p1_comp VSS sub! rppd w=4.0u l=0.50u m=1 b=0 mm_ok=1
XQP2_COMP c_p2_comp c_p1_comp e_p2_comp sub! npn13G2 Nx=4 mm_ok=1
XRPTAT_COMP e_p2_comp VSS sub! rppd w=2.0u l=1.107u m=1 b=0 mm_ok=1
XCSTAB_COMP VSS c_p1_comp cap_cmim w=80.0u l=83.3u m=1 mm_ok=1
XQS_COMP e_tail c_p1_comp e_scomp sub! npn13G2 Nx=6 mm_ok=1
XRDEG_SCOMP e_scomp VSS sub! rppd w=24.0u l=0.50u m=1 b=0 mm_ok=1
XQEF1 VCC_HBT c_p ef_p sub! npn13G2 Nx=1 mm_ok=1
XQEF2 VCC_HBT c_n ef_n sub! npn13G2 Nx=1 mm_ok=1
XR1_P ef_p g_p sub! rppd w=1.0u l=22.0u m=1 b=0 mm_ok=1
XR2_P g_p VSS sub! rppd w=1.0u l=14.5u m=1 b=0 mm_ok=1
XR1_N ef_n g_n sub! rppd w=1.0u l=22.0u m=1 b=0 mm_ok=1
XR2_N g_n VSS sub! rppd w=1.0u l=14.5u m=1 b=0 mm_ok=1
XM1 cml_out_n g_p e_cmos VSS sg13_lv_nmos w=6.0u l=0.13u ng=1 m=1 mm_ok=1
XM2 cml_out_p g_n e_cmos VSS sg13_lv_nmos w=6.0u l=0.13u ng=1 m=1 mm_ok=1
XMTAIL e_cmos VDD VSS VSS sg13_lv_nmos w=8.0u l=0.50u ng=1 m=1 mm_ok=1
XM3 cml_out_n cml_out_n VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=1 m=1 mm_ok=1
XM4 cml_out_p cml_out_n VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=1 m=1 mm_ok=1
XCDAMP1 cml_out_p VSS cap_cmim w=5.0u l=5.0u m=1 mm_ok=1
XCDAMP2 cml_out_n VSS cap_cmim w=5.0u l=5.0u m=1 mm_ok=1
XM5 raw_inv cml_out_p VDD VDD sg13_lv_pmos w=2.83u l=0.13u ng=1 m=1 mm_ok=1
XM6 raw_inv cml_out_p VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1 mm_ok=1
XM7 PBIT_RAW raw_inv VDD VDD sg13_lv_pmos w=2.83u l=0.13u ng=1 m=1 mm_ok=1
XM8 PBIT_RAW raw_inv VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1 mm_ok=1
XM9 PBIT_OUT PBIT_RAW VDD VDD sg13_lv_pmos w=2.83u l=0.13u ng=1 m=1 mm_ok=1
XM10 PBIT_OUT PBIT_RAW VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1 mm_ok=1
XM11 CLK_OUT_DIV CLK_P VDD VDD sg13_lv_pmos w=2.83u l=0.13u ng=1 m=1 mm_ok=1
XM12 CLK_OUT_DIV CLK_P VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1 mm_ok=1
XQDAC_P c_p TRIM_P e_dac_p sub! npn13G2 Nx=1 mm_ok=1
XRDAC_P e_dac_p VSS sub! rppd w=1.0u l=5.4u m=1 b=0 mm_ok=1
XQDAC_N c_n TRIM_N e_dac_n sub! npn13G2 Nx=1 mm_ok=1
XRDAC_N e_dac_n VSS sub! rppd w=1.0u l=5.4u m=1 b=0 mm_ok=1
XTAP1 VSS sub! ptap1 R={ 1.0 / ( 1.0 / ( 9.8e-10 / ( 2.0u * 2.0u ) ) + 1.0 / ( 9.8e-4 / ( 2.0 * ( 2.0u + 2.0u ) ) ) )} w=2.0u l=2.0u
XRFB raw_inv cml_out_p sub! rppd w=1.0u l=18.5u m=1 b=0 mm_ok=1
.ends

.end
